US05116863
IR (KBr disk): 3400, 1700, 1610, 1260, 1235 cm-1The thus obtained 2-(4-methoxycarbonylphenoxy) methyl benzoic acid (392.7 g) is suspended in 5.0 l of methylene chloride and 266.0 g of trifluoroacetic anhydride is added thereto. After stirring the mixture at room temperature for one hour, 19.4 g of boron trifluoride-ethylether complex is added thereto and the mixture is stirred at room temperature for two hours. The reaction solution is poured into ice water. After an organic solvent layer is separated from the mixture, the organic layer is washed with diluted aqueous sodium hidroxide solution and water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 335.3 g of methyl 11-oxodibenz[b,e]oxepin-2-carboxylate as a white crystal.

reactant | KBr | [K+].[Br-]
reactant | 2-(4-methoxycarbonylphenoxy) methyl benzoic acid | 392.7 g | COC(=O)C1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C16H14O5
reactant | trifluoroacetic anhydride | 266.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 5.0 l | C(Cl)Cl | CH2Cl2
product | methyl 11-oxodibenz[b,e]oxepin-2-carboxylate | 335.3 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C16H12O4
